US04231784
N-[(4-Dimethylamino-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
To a suspension of 15.2 g of 2-amino-4-dimethylamino-6-methylpyrimidine in 400 ml of methylene chloride at ambient temperature was added slowly 18.3 g of benzenesulfonylisocyanate. After stirring for four hours the mixture was stripped in-vacuo and the white semisolid residue triturated with ethyl ether and isolated by filtration. The solid was then slurried in hot acetone, cooled and refiltered to yield the solid named above which decomposed at 180°-182°.

reactant | 2-amino-4-dimethylamino-6-methylpyrimidine | 15.2 g | NC1=NC(=CC(=N1)N(C)C)C | C7H12N4
reactant | benzenesulfonylisocyanate | 18.3 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | N-[(4-Dimethylamino-6-methylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | CN(C1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=CC=CC=C1)C | C14H17N5O3S
